US04107309
Imidazo[1,2-d]-as-triazine-5(6H)-thione
N-Benzylimidazole is converted to 2-hydroxymethylimidazole by the method of R. G. Jones, J.A.C.S. 71, 383 (1949). The 2-hydroxymethylimidazole is converted to imidazole-2-carboxaldehyde by the method of H. Schubert and H. D. Rudorf, Angew. Chem. Intern. Ed., 5, 674 (1966). A 67.) gm. portion of imidazole-2-carboxaldehyde is added to 500 ml. of ethanol and warmed on a steam bath. An 85.4 gm. portion of methyl dithiocarbazate is added together with 200 ml. of ethanol. While the solution is warm, 20 drops of glacial acetic acid are added. The mixture is heated to reflux on a steam bath for one hour, cooled and filtered. The filtrate is evaporated yielding 123.2 gm. of 3-(2-imidazolymethylene)-dithio-carbazic acid, methyl ester. A 120.2 g. portion of 3-(2-imidazolylmethylene)dithio-carbazic acid, methyl ester is added to 800 ml. of diphenyl ester. The mixture is heated in an oil bath at 195°-200° C. for 15 minutes. The reaction mixture is cooled to room temperature and the precipitate is collected, washed with petroleum ether, and air dried. This light orange solid is crystallized twice from petroleum ether giving 83.0 gm. of imidazo[1,2-d]-as-triazine-5(6H)-thione, m.p. 238°-240° C.

reactant | N-Benzylimidazole | C(C1=CC=CC=C1)N1C=NC=C1 | C10H10N2
reactant | 2-hydroxymethylimidazole | OCC=1NC=CN1 | C4H6N2O
reactant | imidazole-2-carboxaldehyde | N1C(=NC=C1)C=O | C4H4N2O
reactant | methyl dithiocarbazate | C(NN)(=S)SC | C2H6N2S2
reactant | 3-(2-imidazolylmethylene)dithio-carbazic acid, methyl ester | N1C(=NC=C1)C=NNC(=S)SC | C6H8N4S2
catalyst | acetic acid | 20 drops | C(C)(=O)O | C2H4O2
solvent | ethanol | C(C)O | C2H6O
product | Imidazo[1,2-d]-as-triazine-5(6H)-thione | N=1C=CN2C(NN=CC21)=S | C5H4N4S
